US06320051B1
b) 2-Chloro-4-(4-methoxybenzyloxy)quinoline
2,4-Dichloroquinoline (4.48 g, 25 mmol) was dissolved in dry THF (100 ml) and treated with sodium hydride (60% dispersion in oil, 5.62 g 25 mmol) under an argon atmosphere portion-wise over a period of 20 min. After a further 30 min the reaction mixture was treated with 15-crown-5 (5.62 g, 25 mmol) followed by 4-methoxybenzyl alcohol (3.44 g, 23 mmol). The reaction was stirred at room temperature overnight. The reaction mixture was then evaporated to low volume, and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and evaporated. Chromatography on Kieselgel 60 eluting with 10% ethyl acetate in hexane afforded the title compound as a white solid (2.67 g, 39%); δH (CDCl3) 5.20 (2H, s), 6.83 (1H, s), 6.97 and 7.43 (4H, 2×d, J=8.6 Hz), 7.49 (1H, t, J=8.1 Hz), 7.70 (1H, t, J=8.2 Hz), 7.94 (1H, d, J=8.3 Hz), 8.17 (1H, d, J=8.2 Hz); MS (ES+) 300 (MH+, 10%). 121 (100).

reactant | 2,4-Dichloroquinoline | 25 mmol, 4.48 g | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | sodium hydride | 25 mmol, 5.62 g | [H-].[Na+]
reactant | 15-crown-5 | 25 mmol, 5.62 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 4-methoxybenzyl alcohol | 23 mmol, 3.44 g | COC1=CC=C(CO)C=C1 | C8H10O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-Chloro-4-(4-methoxybenzyloxy)quinoline | 2.67 g, 39% | ClC1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)OC | C17H14ClNO2
